US05783572
A mixture of 5-[(2-chloroethyl)pyrazol-1-ylmethyl]-6,7-dichloro-2,3-dimethoxyquinoxaline (150 mg, 0.37 mmol), 1,1-dimethyl-1-propylamine (3 mL) and ethanol (5 mL) were heated in a closed vessel at 105° C. for 7 hours. The mixture was cooled, the solvent was removed under reduced pressure, and the residue was dissolved in ethyl acetate (75 mL). The solution was washed with saturated aqueous sodium bicarbonate, dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (elution with dichloromethane, then an ethyl acetate/methanol/triethylamine gradient) gave 6,7-dichloro-2,3-dimethoxy-5-{[2-(N-(1,1-dimethylpropyl)amino)ethyl]pyrazol-1-ylmethyl}quinoxaline (65 mg, 38%), as a pale yellow solid.

reactant | 5-[(2-chloroethyl)pyrazol-1-ylmethyl]-6,7-dichloro-2,3-dimethoxyquinoxaline | 0.37 mmol, 150 mg | ClCCC(C1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC)N1N=CC=C1 | C16H15Cl3N4O2
reactant | 1,1-dimethyl-1-propylamine | 3 mL | CC(CC)(C)N | C5H13N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6,7-dichloro-2,3-dimethoxy-5-{[2-(N-(1,1-dimethylpropyl)amino)ethyl]pyrazol-1-ylmethyl}quinoxaline | 65 mg, 38% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C(N1N=CC=C1)CCNC(CC)(C)C | C21H27Cl2N5O2
